US04310467
A solution of (20S)-20-methyl-1α,3β,21-triacetyloxypregn-5-ene in methanol was treated with sodium hydroxide at reflux to produce (20S)-20-methylpregn-5-ene-1α,3β,21-triol.

reactant | (20S)-20-methyl-1α,3β,21-triacetyloxypregn-5-ene | C[C@H](COC(C)=O)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C)=O)OC(C)=O | C28H42O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | (20S)-20-methylpregn-5-ene-1α,3β,21-triol | C[C@H](CO)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C22H36O3
